US05395962
0.826 g (7.23 mmol) of (1R,2R)-(-)-1,2-cyclohexanediamine of [α]D20 =-36.7° (c 4.14, H2O) and 1.04 g (7.21 mmol) of dl-trans-1,2-cyclooctanediol were added to 2 ml of toluene and then heated/dissolved therein, and the solution was cooled to room temperature. Afterward, the precipitated crystals were collected by filtration and then recrystallized from 2 ml of toluene twice to obtain 0.735 g of (1R,2R)-(-)-1,2-cyclohexanediamine-(1R,2R)-(-)-1,2-cyclooctanediol. Physical properties of the product are as follows.

reactant | (1R,2R)-(-)-1,2-cyclohexanediamine | 7.23 mmol, 0.826 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | H2O | O | H2O
reactant | trans-1,2-cyclooctanediol | [C@@H]1([C@@H](CCCCCC1)O)O | C8H16O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (1R,2R)-(-)-1,2-cyclohexanediamine (1R,2R)-(-)-1,2-cyclooctanediol | 0.735 g | [C@@H]1([C@@H](CCCC1)N)N.[C@@H]1([C@@H](CCCCCC1)O)O | InChI=1S/C8H16O2.C6H14N2/c9-7-5-3-1-2-4-6-8(7)10;7-5-3-1-2-4-6(5)8/h7-10H,1-6H2;5-6H,1-4,7-8H2/t7-,8-;5-,6-/m11/s1
